US07632857B2
(2,6-Difluoro-4-pyrimidin-5-yl-phenyl)-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared in a manner substantially analogous to Procedure WW starting from 5-pyrimidine boronic acid and (4-bromo-2,6-difluoro-phenyl)-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone to give 8 mg (8%). MS (ES+) 373 m/z

reactant | 5-pyrimidine boronic acid | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | (4-bromo-2,6-difluoro-phenyl)-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | BrC1=CC(=C(C(=C1)F)C(=O)N1[C@@H](CCC1)CN1CCCC1)F | C16H19BrF2N2O
product | (2,6-Difluoro-4-pyrimidin-5-yl-phenyl)-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | FC1=C(C(=CC(=C1)C=1C=NC=NC1)F)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C20H22F2N4O
